US09388189B2
(S)-2-(1-((6-Amino-5-(4-(piperazin-1-yl)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-tert-Butyl 4-(4-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)piperazine-1-carboxylate (75 mg, 0.12 mmol) was dissolved in 2 ml dioxane. A solution of hydrochloric acid (4M in dioxane, 30 μL, 0.12 mol) was added and the reaction was stirred at room temperature for 2 h. The solvent was removed and the residue was purified by preparative HPLC-MS to give 12 mg (19% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-tert-Butyl 4-(4-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)piperazine-1-carboxylate | 0.12 mmol, 75 mg | NC1=NC=NC(=C1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C34H39N9O3
reactant | hydrochloric acid | 0.12 mol, 4M, 30 μL | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-2-(1-((6-Amino-5-(4-(piperazin-1-yl)phenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 12 mg, 19% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C(C=C2)N2CCNCC2 | C29H31N9O
